US07238828B2
Synthesis of cyano-acetic acid 1-butoxycarbonyl-ethyl ester (Bu-Lac-CAc)
A mixture of 292.32 g of butyllactate, 204.14 g of cyanoacetic acid, and 14.66 g of 4-dimethylaminopyridine (DMAP) in 2000 ml of CH2Cl2 was stirred in a 3 L three-neck round bottom flask equipped with a mechanical stirrer. About 50 ml of N-N′-dimethylformide (DMF) was added to make a clear solution. The above clear solution was chilled in an ice water bath. A separately prepared dicyclohexylcarbodiimide (DCC) solution (495.19 g in 500 ml CH2Cl2) was added to the above chilled solution by using an addition funnel. White precipitate formed within five minutes after the start of the addition. The reaction mixture was left stirred overnight.

reactant | butyllactate | 292.32 g | C(CCC)OC(C(O)C)=O | C7H14O3
reactant | cyanoacetic acid | 204.14 g | C(#N)CC(=O)O | C3H3NO2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | dicyclohexylcarbodiimide | 500 ml, 495.19 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 14.66 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 2000 ml | C(Cl)Cl | CH2Cl2
product | cyano-acetic acid 1-butoxycarbonyl-ethyl ester | C(CCC)OC(=O)C(C)OC(CC#N)=O | C10H15NO4
